US07514419B2
To a solution of 4-benzyloxyphenylacetyl chloride (4.0 g, 16.2 mmol) in THF (10.0 mL) at room temperature was slowly added triethyl phosphite (3.33 mL, 19.5 mmol). The reaction mixture was stirred at room temperature for 16 h and the solvent was removed under reduced pressure. The residue was treated with hexanes (20 mL) and the mixture was filtered. White solid was collected and air-dried. The solid was dissolved in pyridine (25.0 mL) and hydroxylamine hydrochloride (1.96 g, 28 mmol) was added. The reaction mixture was stirred at room temperature for 72 h and the solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (7:3) to afford diethyl 2-(4-benzyloxyphenyl)-1-(hydroxyimino)ethylphosphonate as a colorless oil (5.2 g, 85%): 1H NMR (300 MHz, CDCl3): δ 7.18-7.38 (m, 7H), 6.80 (d, J=6.2 Hz, 2H), 4.94 (s, 2H), 3.80-4.10 (m, 4H), 3.80 (s, 1H), 3.76 (s, 1H), 1.16 (t, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-ethyl acetate (2:3); Rf=0.55.

reactant | 4-benzyloxyphenylacetyl chloride | 16.2 mmol, 4.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)Cl | C15H13ClO2
reactant | triethyl phosphite | 19.5 mmol, 3.33 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | hydroxylamine hydrochloride | 28 mmol, 1.96 g | Cl.NO
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | diethyl 2-(4-benzyloxyphenyl)-1-(hydroxyimino)ethylphosphonate | 5.2 g, 85% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=NO)P(OCC)(OCC)=O | C19H24NO5P
